US04051248
C. 8-[(3,4-Dihydro-2-naphthalenyl)methyl]-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one
A solution of 8-[(3,4-dihydro-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]dec-2-en-4-one (5.0 g) in dry tetrahydrofuran (30 ml) is added dropwise to a slurry of lithium aluminum hydride (0.5 g) in tetrahydrofuran (60 ml). The resulting mixture is refluxed under nitrogen for 16 hours. The reaction mixture is cooled and treated, in order, with water (0.6 ml), 15% sodium hydroxide solution (0.6 ml), and water (1.8 ml). The resulting mixture is stirred for 30 minutes. The mixture is filtered and the solids washed with chloroform. The filtrate is washed with brine, dried over sodium sulfate, and concentrated to give the title compound.

reactant | 8-[(3,4-dihydro-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]dec-2-en-4-one | 5.0 g | C1=C(CCC2=CC=CC=C12)CN1CCC2(C(N=CN2)=O)CC1 | C18H21N3O
reactant | lithium aluminum hydride | 0.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.6 ml | O | H2O
reactant | sodium hydroxide | 0.6 ml | [OH-].[Na+]
reactant | water | 1.8 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 8-[(3,4-Dihydro-2-naphthalenyl)methyl]-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | C1=C(CCC2=CC=CC=C12)CN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C24H27N3O
